US04965356
A. (cis)-3-[(2-Carboxybenzoyl)oxy]-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-6-(trifluoromethyl) -2H-1-benzazepin-2-one
Under argon, to dry methylene chloride (800 ml) and triethylamine (38 ml) was added DMAP (2.17 g) and (cis)-1,3,4,5-tetrahydro-3-hydroxy-4-(4-methoxyphenyl)-6-(trifluoromethyl)-2H-1-benzazepin -2-one (62.51 g). After stirring, the so-formed suspension was cooled to about 15° C. and phthalic anhydride (39.53 g) was added. The resulting solution was warmed to room temperature and stirred for 4 hours. Upon quenching with 500 ml of dilute hydrochloric acid the layers were separated and the crystallized product from the methylene chloride layer was filtered and washed and dried in vacuo to give 84.8 g (95.4%) of the title A compound as a white crystalline solid, m.p. 161°-162° C.

reactant | methylene chloride | 800 ml | C(Cl)Cl | CH2Cl2
reactant | (cis)-1,3,4,5-tetrahydro-3-hydroxy-4-(4-methoxyphenyl)-6-(trifluoromethyl)-2H-1-benzazepin -2-one | 62.51 g | O[C@@H]1C(NC2=C(C[C@@H]1C1=CC=C(C=C1)OC)C(=CC=C2)C(F)(F)F)=O | C18H16F3NO3
reactant | phthalic anhydride | 39.53 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
catalyst | DMAP | 2.17 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | triethylamine | 38 ml | C(C)N(CC)CC | C6H15N
product | (cis)-3-[(2-Carboxybenzoyl)oxy]-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-6-(trifluoromethyl) -2H-1-benzazepin-2-one | C(=O)(O)C1=C(C(=O)O[C@@H]2C(NC3=C(C[C@@H]2C2=CC=C(C=C2)OC)C(=CC=C3)C(F)(F)F)=O)C=CC=C1 | C26H20F3NO6
